US04430455
Under stirring, 15 g. ethyl acrylate was added to 11.6 g. N,N,N'-trimethyl-propane-1,3-diamine. Stirring was continued 8 hours at room temperature and the mixture was then heated to 80° C. for 16 hours before stripping the solvent in vacuo. The residue was dissolved in 75 ml. ether and added to a slurry of 2.1 g. LiAlH4 in 100 ml. of ether. This mixture was refluxed 2 hours. After cooling, ethyl acetate and then aqueous HCl were added and the mixture was stirred one hour. The clear, two-phase system was separated. The organic layer was dried over MgSO4, filtered, stripped of solvent, and the residue was distilled at 70°-75° C./0.4 mm, producing pure N,N,N'-trimethyl-N'-(3-hydroxypropyl)propane-1,3-diamine.

reactant | ethyl acrylate | C(C=C)(=O)OCC | C5H8O2
reactant | N,N,N'-trimethyl-propane-1,3-diamine | CN(CCCNC)C | C6H16N2
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | HCl | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
product | N,N,N'-trimethyl-N'-(3-hydroxypropyl)propane-1,3-diamine | CN(CCCN(CCCO)C)C | C9H22N2O
